*** Transient InterconnectRTSH test

*** Transient Analysis
.tran2 tstop=4e-6 tstep=10e-9 out_steps=5

.options InitTmp=300

.ref "tref"
.ref 0

*** Sources
vpulse:Vp 1 0 v1=1 v2=5 per=2e-6 pw=1e-6 tr=0.05e-6 tf=0.05e-6

*** Network
resistor:rs 1 2 r=2k
interconnectrtsh:irt1 2 0 1000 "tref" l=1e-3 metal="copper" pdr=1
*interconnectrtsh:irt1 2 0 1000 "tref" l=1e-3 rho=1.83e-8 tc=0.004041 pdr=1

*** Thermal network
resistor:rt1 1000 1001 r=6e3
vsource:vt1 1001 "tref" vdc=InitTmp
capacitor:ct1 1000 1001 c=1e-12

*** Transient Output
.options gnuplot
*.out plot term 2 vt  in "trans_input.out"
.out plot term 2 vt element "interconnectrtsh:irt1" 0 it div in "trans_res.out"
*.out plot element "interconnectrtsh:irt1" 0 it in "trans_current.out"
.out plot element "interconnectrtsh:irt1" 1 ut in "trans_temp.out"

.end
